US05563136
Ethyl 2-(3-isocyanatophenylthio)propionate can be obtained in a manner analogous to that described in Example 1 for the preparation of tert-butyl (3-isocyanatophenylthio)acetate, but starting for 1 g of ethyl 2-(3-aminophenylthio)propionate, 0.54 cm3 of trichloromethyl chloroformate and 0.09 g of carbon. 1.18 g of ethyl 2-(3-isocyanatophenylthio)propionate are thus obtained in the form of an oil which is used as such in the subsequent syntheses.

reactant | tert-butyl (3-isocyanatophenylthio)acetate | N(=C=O)C=1C=C(C=CC1)SCC(=O)OC(C)(C)C | C13H15NO3S
reactant | ethyl 2-(3-aminophenylthio)propionate | 1 g | NC=1C=C(C=CC1)SC(C(=O)OCC)C | C11H15NO2S
reactant | trichloromethyl chloroformate | 0.54 cm3 | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
product | ethyl 2-(3-isocyanatophenylthio)propionate | 1.18 g | N(=C=O)C=1C=C(C=CC1)SC(C(=O)OCC)C | C12H13NO3S
